### PR TITLE
Add Erdős Problem 1046 (Pommerenke's disc bound for connected lemniscates), link the formal proof

### LINKED ISSUE #6261: Erdős Problem 1046
### What is the Erdős problem?

https://www.erdosproblems.com/1046

Let $f\in \mathbb{C}[x]$ be a monic polynomial and $E=\{ z: \lvert f(z)\rvert <1\}$. If $E$ is connected then is $E$ contained in a disc of radius $2$?

Status: solved — the answer is yes (Pommerenke: the disc can be centred at the centroid of the roots). A formal proof exists in plby/lean-proofs (`Erdos1046.erdos_1046`, Codex and GPT-5.6 Sol). Related to #1043.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-30

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6261.

### What changed
Adds `FormalConjectures/ErdosProblems/1046.lean` with the open/closed unit lemniscates of a complex polynomial and:
- `erdos_1046` (`research solved`, `answer(True)`): if `{|f| < 1}` is connected (`f` monic) then it lies in an open disc of radius `2` (Pommerenke [Po59]). Linked to plby/lean-proofs `Erdos1046.erdos_1046` (Codex and GPT-5.6 Sol; two Mathlib-only files, via a Jensen-formula argument).
- `erdos_1046.variants.centroid` (also linked): the disc can be centred at the centroid of the roots.
- `erdos_1046.variants.diameter` (open): the Erdős–Herzog–Piranian conjecture that a connected closed lemniscate has diameter `≥ 2`.

(The problem page's status label reads "solved in the negative", but its text states that the answer to the question as posed is yes; the negative part concerns the width conjecture.)

### How checked
- Rebuilt plby's files against this repo's Mathlib: `#print axioms Erdos1046.erdos_1046` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against both linked statements on top of a renamed copy, same axioms (the lemniscates are definitionally equal):

<details>
<summary>Bridge</summary>

```lean
open Polynomial Metric

namespace Bridge1046

lemma lemniscate_eq : Erdos1046.lemniscate = Erdos1046Plby.lemniscate := rfl

theorem erdos_1046_bridge : type_of% Erdos1046.erdos_1046 := by
  show True ↔ _
  simp only [true_iff]
  intro f hf hE
  rw [lemniscate_eq] at hE ⊢
  exact Erdos1046Plby.erdos_1046 f hf hE

theorem erdos_1046_centroid_bridge : type_of% Erdos1046.erdos_1046.variants.centroid := by
  intro f hf hE
  rw [lemniscate_eq] at hE ⊢
  exact Erdos1046Plby.pommerenke_centroid_bound f hf hE

end Bridge1046
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1046»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1046.lean [hunk 1]
```diff
@@ -0,0 +1,84 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1046.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
